US05378689
A procedure similar to those described in Preparations 12-14 was repeated, but using 3-(4-methoxyphenyl)propionic acid as one of the starting materials and morpholine as the amine, to afford benzyl 2(R)-(4-methoxybenzyl)-3-(morpholinocarbonyl)propionate. 1.62 g (4.08 mmole) of this compound was dissolved in 50 ml of ethanol, and the solution was stirred at room temperature for 4 hours under an atmosphere of hydrogen and in the presence of 160 mg of 10% w/w palladium-on-charcoal. At the end of this time, the catalyst was removed by filtration and the filtrate was concentrated by distillation under reduced pressure, to afford 1.25 g of the title compound as a colorless oily substance.

reactant | 3-(4-methoxyphenyl)propionic acid | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | benzyl 2(R)-(4-methoxybenzyl)-3-(morpholinocarbonyl)propionate | COC1=CC=C(C[C@@H](C(=O)OCC2=CC=CC=C2)CC(=O)N2CCOCC2)C=C1 | C23H27NO5
